US06573263B2
N-Acetylalanine
134 g (1.50 mol) of DL-alanine are introduced into acetic acid and treated dropwise with 230 g (2.25 mol) of acetic anhydride. The mixture is additionally stirred at 100° C. for 2 h to complete the reaction and the solvent is then stripped off in vacuo. The solid obtained is suspended in ethyl acetate and filtered off with suction. For purification, the solid is washed several times with diethyl ether.

reactant | DL-alanine | 1.50 mol, 134 g | NC(C)C(=O)O | C3H7NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 2.25 mol, 230 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Acetylalanine | C(C)(=O)N[C@@H](C)C(=O)O | C5H9NO3
